US07732365B2
α-Ethynyl-N-(p-tolyl)-benzenemethanamine.
The general procedure was followed with cinnamyl carbonate (0.188 g, 0.979 mmol) and p-toluidine (0.160 g, 1.5 mmol). The reaction was conducted at room temperature for 6 h. 1H NMR analysis of the crude reaction mixture indicated the ratio of regioisomers to be >99/1. The mixture was purified by flash column chromatography on silica gel (2% ethyl acetate in hexanes) to give the title compound (0.166 g, 76%). HPLC analysis indicated the enantiomeric excess of the product was 94% [Diacel CHIRALCEL OD-H (0.46 cm×25 cm); hexane/2-propanol=99.75/0.25; flow rate=0.6 mL/min; detection wavelength=254 ml; TR=24.2 (minor), 32.2 (major) min]: [α]DRT=(c, CHCl3). 1H NMR (400.13 MHz, CDCl3) δ 7.44-7.32 (m, 4H), 7.28 (dt, J=7.2, 2.0 Hz, 1H), 7.06 (d, J=7.6 Hz, 1H), 7.03 (t, J=7.2 Hz, 1H), 6.65 (t, J=7.2 Hz, 1H), 6.52 (d, J=8.0 Hz, 1H), 6.08 (ddd, J=16.8, 10.4, 6.0 Hz, 1H), 5.27 (dt, J=17.2, 1.2 Hz, 1H), 5.23 (dt, J=10.4, 1.2 Hz, 1H), 4.99 (t, J=4.4 Hz, 1 H), 3.88 (br s, 1H), 2.20 (s, 3H).

reactant | cinnamyl carbonate | 0.979 mmol, 0.188 g | C(OCC=CC1=CC=CC=C1)([O-])=O
reactant | p-toluidine | 1.5 mmol, 0.160 g | NC1=CC=C(C=C1)C | C7H9N
product | α-Ethynyl-N-(p-tolyl)-benzenemethanamine | 0.166 g, 76% | C(#C)C(NC1=CC=C(C=C1)C)C1=CC=CC=C1 | C16H15N
